US05331011
1) Synthesis of N-4-chlorobenzyl-N-2-(3,4-dichlorophenoxy)ethylamine
2.70 Grams (10.0 mmol) of 2-(3,4dichlorophenoxy)ethyl bromide was dissolvedin 30 ml of ethanol, followed by the addition of 1.06 g (10.0 mmol) of anhydrous sodium carbonate and 4.25 g (30.0 mmol) of 4-chlorobenzylamine. The mixture was heated and refluxed on an oil bath for 7 hours. After cooling, the reaction mixture was poured into 100 ml of water and was extracted with chloroform (20 ml×3).

reactant | 2-(3,4dichlorophenoxy)ethyl bromide | 10.0 mmol | ClC=1C=C(OCCBr)C=CC1Cl | C8H7BrCl2O
reactant | ethanol | 30 ml | C(C)O | C2H6O
reactant | sodium carbonate | 10.0 mmol, 1.06 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-chlorobenzylamine | 30.0 mmol, 4.25 g | ClC1=CC=C(CN)C=C1 | C7H8ClN
solvent | water | 100 ml | O | H2O
product | N-4-chlorobenzyl-N-2-(3,4-dichlorophenoxy)ethylamine | ClC1=CC=C(CNCCOC2=CC(=C(C=C2)Cl)Cl)C=C1 | C15H14Cl3NO
